US04234744
12.78 grams of 2-bromo-6-chlorohexanoic acid methyl ester, 6.08 grams of potassium cyanate and 2.72 grams of methanol were heated under powerful stirring in 70 ml of DMF for 1 hour. The reaction mixture was worked up in the manner described in Example 1. There were obtained 6.29 grams (50.3%) of 6-chloro-2-methoxycarbonylaminohexanoic acid methyl ester with boiling point of 113° C./0.0026 mbar.

reactant | 2-bromo-6-chlorohexanoic acid methyl ester | 12.78 grams | COC(C(CCCCCl)Br)=O | C7H12BrClO2
reactant | potassium cyanate | 6.08 grams | [O-]C#N.[K+]
reactant | methanol | 2.72 grams | CO | CH4O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 6-chloro-2-methoxycarbonylaminohexanoic acid methyl ester | 6.29 grams, 50.3% | COC(C(CCCCCl)NC(=O)OC)=O | C9H16ClNO4
